*  Sonnet Data File
*  From: emgraph Version : 16.56
*  From Project: Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness
*  Data is De-embedded 
*  Data File Written: 03/24/2020 17:01:58
* < HDATE 03/06/2020 17:23:53
* < MDATE 03/06/2020 17:24:47
* < PARAMS
* < ILD_thickness = 0.2
* < ILD_dielectric_const = 4.4
* < END PARAMS
*  Spice Data
* Limits: C>0.01pF L<100.0nH R<1000.0Ohms K>0.01
    *  Analysis frequencies: 100.0, 110.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param21_0 1 2 3 4 REF
C_C1 1 REF 0.6227408413373pf
C_C2 1 2 18.65510202856pf
C_C3 1 3 0.0298130254197pf
C_C4 1 4 0.2559236251664pf
C_C5 2 REF 0.864469098838pf
C_C6 2 3 0.1301561175439pf
C_C7 3 REF 0.6725023661565pf
C_C8 3 4 5.1149088883328pf
C_C9 4 REF 0.6741020565284pf
L_L1 3 5 1.2972491430047nh
R_RL1 5 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param21_0

    *  Analysis frequencies: 110.0, 120.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param21_1 1 2 3 4 REF
C_C1 1 REF 0.5398170458639pf
C_C2 1 2 19.087913888994pf
C_C3 1 3 0.0275422187639pf
C_C4 1 4 0.2606198497028pf
C_C5 2 REF 0.7896964522546pf
C_C6 2 3 0.1309568956109pf
C_C7 3 REF 0.6740219010752pf
C_C8 3 4 3.7754594114985pf
C_C9 4 REF 0.673531964591pf
L_L1 3 5 1.2983267562499nh
R_RL1 5 4 1.1464026556e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param21_1

    *  Analysis frequencies: 120.0, 130.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param21_2 1 2 3 4 REF
C_C1 1 REF 0.4746483322328pf
C_C2 1 2 19.573381792295pf
C_C3 1 3 0.0252166288317pf
C_C4 1 4 0.2658847984116pf
C_C5 2 REF 0.733069435921pf
C_C6 2 3 0.1318894179048pf
C_C7 3 REF 0.6754599001986pf
C_C8 3 4 2.8388070345785pf
C_C9 4 REF 0.6733589035642pf
L_L1 3 5 1.2992249176259nh
R_RL1 5 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param21_2

    *  Analysis frequencies: 130.0, 145.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param21_3 1 2 3 4 REF
C_C1 1 REF 0.4146000192363pf
C_C2 1 2 20.249051492652pf
C_C3 1 3 0.0222360647476pf
C_C4 1 4 0.2732987844148pf
C_C5 2 REF 0.6843703918669pf
C_C6 2 3 0.1332895703326pf
C_C7 3 REF 0.6770917687467pf
C_C8 3 4 2.0315346117823pf
C_C9 4 REF 0.6735005173089pf
L_L1 3 5 1.3001344866626nh
R_RL1 5 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param21_3

    *  Analysis frequencies: 145.0, 160.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param21_4 1 2 3 4 REF
C_C1 1 REF 0.3658978570416pf
C_C2 1 2 21.135657387393pf
C_C3 1 3 0.0186121883964pf
C_C4 1 4 0.2832004551857pf
C_C5 2 REF 0.6501920178915pf
C_C6 2 3 0.1353098325058pf
C_C7 3 REF 0.6787518851899pf
C_C8 3 4 1.3833764481879pf
C_C9 4 REF 0.6739268332138pf
L_L1 3 5 1.3010444985833nh
R_RL1 5 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param21_4

    *  Analysis frequencies: 160.0, 175.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param21_5 1 2 3 4 REF
C_C1 1 REF 0.3353453243964pf
C_C2 1 2 22.112346632982pf
C_C3 1 3 0.0148839133212pf
C_C4 1 4 0.2943091019235pf
C_C5 2 REF 0.6354887062235pf
C_C6 2 3 0.1377638291414pf
C_C7 3 REF 0.6800791395742pf
C_C8 3 4 0.9535628239064pf
C_C9 4 REF 0.6744629512539pf
L_L1 3 5 1.3017801383113nh
R_RL1 5 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param21_5

    *  Analysis frequencies: 175.0, 190.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param21_6 1 2 3 4 REF
C_C1 1 REF 0.3165693418624pf
C_C2 1 2 23.1842115697pf
C_C3 1 3 0.0109981521651pf
C_C4 1 4 0.30666793473pf
C_C5 2 REF 0.6340763054813pf
C_C6 2 3 0.1406881014614pf
C_C7 3 REF 0.6810916817394pf
C_C8 3 4 0.6584941689488pf
C_C9 4 REF 0.6749993389298pf
L_L1 3 5 1.3023848785082nh
R_RL1 5 4 -1.279718481e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param21_6

    *  Analysis frequencies: 190.0, 210.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param21_7 1 2 3 4 REF
C_C1 1 REF 0.3035518987236pf
C_C2 1 2 24.578088275896pf
C_C3 1 4 0.3228814554638pf
C_C4 2 REF 0.6435995034588pf
C_C5 2 3 0.1447790212289pf
C_C6 3 REF 0.6819196637117pf
C_C7 3 4 0.4224367778602pf
C_C8 4 REF 0.6755580027956pf
L_L1 3 5 1.3029556439446nh
R_RL1 5 4 -1.715462895e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param21_7

    *  Analysis frequencies: 210.0, 230.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param21_8 1 2 3 4 REF
C_C1 1 REF 0.2941829812254pf
C_C2 1 2 26.364104311404pf
C_C3 1 4 0.3437145274629pf
C_C4 2 REF 0.6629409245021pf
C_C5 2 3 0.1503499357584pf
C_C6 3 REF 0.6824949792383pf
C_C7 3 4 0.2401054121025pf
C_C8 4 REF 0.6760782213184pf
L_L1 3 5 1.3034946143498nh
R_RL1 5 4 -2.121077432e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param21_8

    *  Analysis frequencies: 230.0, 255.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param21_9 1 2 3 4 REF
C_C1 1 REF 0.2852018747149pf
C_C2 1 2 28.704628374325pf
C_C3 1 4 0.3709167960557pf
C_C4 2 REF 0.6910966002916pf
C_C5 2 3 0.1580379195403pf
C_C6 3 REF 0.682772386186pf
C_C7 3 4 0.1051848018989pf
C_C8 4 REF 0.6765222577774pf
L_L1 1 5 75.037948577683nh
R_RL1 5 2 4.467492600038
L_L2 3 6 1.3039403356055nh
R_RL2 6 4 -2.43412187e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param21_9

    *  Analysis frequencies: 255.0, 280.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param21_10 1 2 3 4 REF
C_C1 1 REF 0.272440496088pf
C_C2 1 2 31.789276519027pf
C_C3 1 4 0.4064452501513pf
C_C4 2 REF 0.7263692920702pf
C_C5 2 3 0.168560144249pf
C_C6 3 REF 0.6827649912699pf
C_C7 4 REF 0.676887568971pf
L_L1 1 5 46.888713477528nh
R_RL1 5 2 1.9565756757211
L_L2 3 6 1.3043119847077nh
R_RL2 6 4 -2.620249415e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param21_10

    *  Analysis frequencies: 280.0, 310.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param21_11 1 2 3 4 REF
C_C1 1 REF 0.2506225299654pf
C_C2 1 2 36.034867414101pf
C_C3 1 4 0.4547193343723pf
C_C4 2 REF 0.7691647063488pf
C_C5 2 3 0.1834404223918pf
C_C6 3 REF 0.6824924474078pf
C_C7 4 REF 0.677204816105pf
L_L1 1 5 28.905843391288nh
R_RL1 5 2 0.4774749671528
L_L2 3 6 1.304173869015nh
R_RL2 6 4 -2.62039398e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param21_11

    *  Analysis frequencies: 310.0, 340.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param21_12 1 2 3 4 REF
C_C1 1 REF 0.2137519457705pf
C_C2 1 2 42.060121778931pf
C_C3 1 4 0.5223345166349pf
C_C4 2 REF 0.8220327475965pf
C_C5 2 3 0.2048966921318pf
C_C6 3 REF 0.6819992966804pf
C_C7 4 REF 0.6775428254455pf
L_L1 1 5 17.685541488025nh
R_RL1 5 2 -0.785466422787
L_L2 3 6 1.3038562134764nh
R_RL2 6 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param21_12

    *  Analysis frequencies: 340.0, 375.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param21_13 1 2 3 4 REF
C_C1 1 REF 0.1509480996792pf
C_C2 1 2 51.285140622438pf
C_C3 1 4 0.6246791573738pf
C_C4 2 REF 0.8942266301204pf
C_C5 2 3 0.238000329492pf
C_C6 3 REF 0.681299153296pf
C_C7 4 REF 0.6780301371278pf
R_R1 1 2 712.29668614187
L_L1 1 5 10.022798886669nh
R_RL1 5 2 -0.169983232286
L_L2 3 6 1.303292304242nh
R_RL2 6 4 -1.928594702e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param21_13

    *  Analysis frequencies: 375.0, 410.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param21_14 1 2 3 4 REF
C_C1 1 REF 0.0426529452854pf
C_C2 1 2 66.467109873984pf
C_C3 1 4 0.7918422718144pf
C_C4 2 REF 1.0057401174507pf
C_C5 2 3 0.2925678248082pf
C_C6 3 REF 0.6803726553347pf
C_C7 4 REF 0.6789034015211pf
R_R1 1 2 300.63463250472
L_L1 1 5 5.553956459895nh
R_RL1 5 2 0.140396568062
L_L2 3 6 1.3023826698963nh
R_RL2 6 4 -1.164181231e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param21_14

    *  Analysis frequencies: 410.0, 450.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param21_15 1 2 3 4 REF
C_C1 1 2 95.37951559075pf
C_C2 1 4 1.1089207654913pf
C_C3 2 REF 1.2133098006793pf
C_C4 2 3 0.3963430717504pf
C_C5 3 REF 0.6790510324403pf
C_C6 4 REF 0.6807807174453pf
R_R1 1 2 131.10664161934
L_L1 1 5 2.6603766539124nh
R_RL1 5 2 -0.304700917086
L_L2 3 6 1.3006416033805nh
R_RL2 6 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param21_15

    *  Analysis frequencies: 450.0, 495.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param21_16 1 2 3 4 REF
C_C1 1 2 170.36738642008pf
C_C2 1 4 1.9302318133372pf
C_C3 2 REF 1.750975912132pf
C_C4 2 3 0.6649951207814pf
C_C5 3 REF 0.6764849396821pf
C_C6 4 REF 0.6861813455741pf
R_R1 1 2 45.90816557649
L_L1 1 5 1.0174604682426nh
R_RL1 5 2 -0.162092553077
L_L2 1 6 46.266008261539nh
R_RL2 6 3 -0.173490994991
L_L3 1 7 45.545927871624nh
R_RL3 7 4 -0.174613957919
L_L4 2 8 46.371866054506nh
R_RL4 8 3 0.0117722085969
L_L5 2 9 45.655089559797nh
R_RL5 9 4 0.0115089378315
L_L6 3 10 1.2962679006238nh
R_RL6 10 4 1.0e-5
Kn_K1 L_L1 L_L2 0.0664332971785
Kn_K2 L_L1 L_L3 0.0667137243203
Kn_K3 L_L1 L_L4 -0.081768638174
Kn_K4 L_L1 L_L5 -0.082650392533
Kn_K5 L_L2 L_L3 0.9859115938272
Kn_K6 L_L2 L_L4 0.9890174439143
Kn_K7 L_L2 L_L5 0.9748147780388
Kn_K8 L_L2 L_L6 -0.130183863722
Kn_K9 L_L3 L_L4 0.9749035888817
Kn_K10 L_L3 L_L5 0.9888444680121
Kn_K11 L_L3 L_L6 0.0374939921672
Kn_K12 L_L4 L_L5 0.9859441651279
Kn_K13 L_L4 L_L6 -0.129822117172
Kn_K14 L_L5 L_L6 0.0376638768385
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param21_16

    *  Analysis frequencies: 495.0, 545.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param21_17 1 2 3 4 REF
C_C1 1 2 535.14978740895pf
C_C2 1 4 5.924518912552pf
C_C3 2 REF 4.3731395061531pf
C_C4 2 3 1.9715226376885pf
C_C5 3 REF 0.6663988111264pf
C_C6 4 REF 0.7142775285196pf
R_R1 1 REF -679.9506363295
R_R2 1 2 7.1202755663554
R_R3 1 4 564.37856686129
R_R4 2 REF 666.32083679885
R_R5 2 4 -564.7384626803
L_L1 1 5 25.560620887211nh
R_RL1 5 REF -0.592658936112
L_L2 1 6 0.219193687043nh
R_RL2 6 2 -0.062636241088
L_L3 1 7 11.999873380544nh
R_RL3 7 3 -0.049627849086
L_L4 1 8 11.329525199848nh
R_RL4 8 4 -0.051583392254
L_L5 2 9 25.413467999276nh
R_RL5 9 REF -0.697058747946
L_L6 2 10 12.047546996183nh
R_RL6 10 3 8.8908978146e-4
L_L7 2 11 11.381646201614nh
R_RL7 11 4 9.7083441931e-4
L_L8 3 12 37.305089490507nh
R_RL8 12 REF -0.668590842423
L_L9 3 13 1.275304420125nh
R_RL9 13 4 1.0e-5
L_L10 4 14 36.626566373371nh
R_RL10 14 REF -0.671503973768
Kn_K1 L_L1 L_L2 0.0773860036484
Kn_K2 L_L1 L_L5 0.9957040488198
Kn_K3 L_L1 L_L8 0.8236191900656
Kn_K4 L_L1 L_L10 0.8310795445793
Kn_K5 L_L2 L_L3 0.0528789229077
Kn_K6 L_L2 L_L4 0.0530097286769
Kn_K7 L_L2 L_L5 1.0
Kn_K8 L_L2 L_L6 -0.08211113114
Kn_K9 L_L2 L_L7 -0.085886864771
Kn_K10 L_L2 L_L8 1.0
Kn_K11 L_L2 L_L10 1.0
Kn_K12 L_L3 L_L4 0.945725375696
Kn_K13 L_L3 L_L5 1.0
Kn_K14 L_L3 L_L6 0.9908868869037
Kn_K15 L_L3 L_L7 0.9362191914001
Kn_K16 L_L3 L_L8 1.0
Kn_K17 L_L3 L_L9 -0.248679530661
Kn_K18 L_L3 L_L10 1.0
Kn_K19 L_L4 L_L5 1.0
Kn_K20 L_L4 L_L6 0.9367021109264
Kn_K21 L_L4 L_L7 0.9903512481759
Kn_K22 L_L4 L_L8 1.0
Kn_K23 L_L4 L_L9 0.0795758300364
Kn_K24 L_L4 L_L10 1.0
Kn_K25 L_L5 L_L8 0.8228365210545
Kn_K26 L_L5 L_L10 0.8302163868791
Kn_K27 L_L6 L_L7 0.9459498661505
Kn_K28 L_L6 L_L8 1.0
Kn_K29 L_L6 L_L9 -0.247619707706
Kn_K30 L_L6 L_L10 1.0
Kn_K31 L_L7 L_L8 1.0
Kn_K32 L_L7 L_L9 0.0799770838711
Kn_K33 L_L7 L_L10 1.0
Kn_K34 L_L8 L_L9 0.1416332611588
Kn_K35 L_L8 L_L10 0.9827916164163
Kn_K36 L_L9 L_L10 1.0
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param21_17

    *  Analysis frequencies: 545.0, 600.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param21_18 1 2 3 4 REF
C_C1 1 REF 19.039901591618pf
C_C2 1 3 9.2311997072064pf
C_C3 2 4 28.191669987838pf
C_C4 3 REF 0.745557173081pf
C_C5 4 REF 0.4682516215163pf
R_R1 1 REF -457.4413849086
R_R2 1 2 1.6959415591562
R_R3 1 3 -323.3991124071
R_R4 1 4 183.21575268079
R_R5 2 REF 446.22689316622
R_R6 2 3 323.43927304744
R_R7 2 4 -183.2746593921
L_L1 1 5 3.9370928222985nh
R_RL1 5 REF -0.017473265912
L_L2 1 6 0.186052809316nh
R_RL2 6 2 -0.260233899223
L_L3 1 7 2.6303197885341nh
R_RL3 7 3 -0.104418676509
L_L4 1 8 2.0663623332564nh
R_RL4 8 4 -0.148054898188
L_L5 2 9 4.0838415500163nh
R_RL5 9 REF -0.260388842454
L_L6 2 10 2.5829103062763nh
R_RL6 10 3 -0.034265821739
L_L7 2 11 1.9888184600458nh
R_RL7 11 4 -0.015287891292
L_L8 3 12 6.5605064924557nh
R_RL8 12 REF -0.109206874017
L_L9 3 13 1.1552696197411nh
R_RL9 13 4 -3.730548969e-3
L_L10 4 14 6.0043880588329nh
R_RL10 14 REF -0.151104768404
Kn_K1 L_L1 L_L2 0.0229615771052
Kn_K2 L_L1 L_L5 0.9769676232173
Kn_K3 L_L1 L_L8 0.7739948545765
Kn_K4 L_L1 L_L10 0.8098505867822
Kn_K5 L_L2 L_L3 0.1668646555262
Kn_K6 L_L2 L_L4 0.2125634499447
Kn_K7 L_L2 L_L5 1.0
Kn_K8 L_L2 L_L6 -0.099999124425
Kn_K9 L_L2 L_L7 -0.089190751354
Kn_K10 L_L2 L_L8 1.0
Kn_K11 L_L2 L_L9 0.0324991969867
Kn_K12 L_L2 L_L10 1.0
Kn_K13 L_L3 L_L4 0.7595196355384
Kn_K14 L_L3 L_L5 1.0
Kn_K15 L_L3 L_L6 0.964351292014
Kn_K16 L_L3 L_L7 0.7231478863361
Kn_K17 L_L3 L_L8 0.9469381734742
Kn_K18 L_L3 L_L9 -0.493125310221
Kn_K19 L_L3 L_L10 0.9908055989005
Kn_K20 L_L4 L_L5 1.0
Kn_K21 L_L4 L_L6 0.7094089287935
Kn_K22 L_L4 L_L7 0.9542942135526
Kn_K23 L_L4 L_L8 1.0
Kn_K24 L_L4 L_L9 0.1913559201739
Kn_K25 L_L4 L_L10 1.0
Kn_K26 L_L5 L_L6 0.0163565192126
Kn_K27 L_L5 L_L7 0.0119778896222
Kn_K28 L_L5 L_L8 0.7787165087177
Kn_K29 L_L5 L_L10 0.8178141712987
Kn_K30 L_L6 L_L7 0.7536921681572
Kn_K31 L_L6 L_L8 0.9791723942152
Kn_K32 L_L6 L_L9 -0.50635280625
Kn_K33 L_L6 L_L10 1.0
Kn_K34 L_L7 L_L8 1.0
Kn_K35 L_L7 L_L9 0.1851105701186
Kn_K36 L_L7 L_L10 1.0
Kn_K37 L_L8 L_L9 0.3108194152942
Kn_K38 L_L8 L_L10 0.9089464783317
Kn_K39 L_L9 L_L10 1.0
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param21_18

    *  Analysis frequencies: 600.0, 660.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param21_19 1 2 3 4 REF
C_C1 1 2 1159.7577819172pf
C_C2 1 4 12.790022510303pf
C_C3 2 REF 8.9224019832365pf
C_C4 2 3 4.1809679396776pf
C_C5 3 REF 0.6487962435419pf
C_C6 4 REF 0.7625731317151pf
R_R1 1 REF 306.79471369647
R_R2 1 2 -1.714165205311
R_R3 1 3 391.2124535865
R_R4 1 4 -169.2280290392
R_R5 2 REF -312.6605437686
R_R6 2 3 -391.405879887
R_R7 2 4 169.28191343517
L_L1 1 5 7.3763278909567nh
R_RL1 5 REF -0.069415245364
L_L2 1 6 0.0467724573589nh
R_RL2 6 2 0.0221334451633
L_L3 1 7 4.1880504367241nh
R_RL3 7 3 0.0069818072418
L_L4 1 8 3.5506833362358nh
R_RL4 8 4 0.0090695885984
L_L5 2 9 7.3174118859414nh
R_RL5 9 REF -0.058725685823
L_L6 2 10 4.2098773566421nh
R_RL6 10 3 0.0036346104057
L_L7 2 11 3.5794717350708nh
R_RL7 11 4 0.0023767342639
L_L8 3 12 11.493194909132nh
R_RL8 12 REF -0.070141023346
L_L9 3 13 1.2175595004405nh
R_RL9 13 4 1.6263707399e-4
L_L10 4 14 10.848709844532nh
R_RL10 14 REF -0.069072731335
Kn_K1 L_L1 L_L2 0.0899668227294
Kn_K2 L_L1 L_L5 0.9968248575348
Kn_K3 L_L1 L_L8 0.7972584363953
Kn_K4 L_L1 L_L10 0.8202001682807
Kn_K5 L_L2 L_L3 0.0281813519589
Kn_K6 L_L2 L_L4 0.0220651379345
Kn_K7 L_L2 L_L5 1.0
Kn_K8 L_L2 L_L6 -0.077296594752
Kn_K9 L_L2 L_L7 -0.092334140764
Kn_K10 L_L2 L_L8 1.0
Kn_K11 L_L2 L_L9 -0.014585835988
Kn_K12 L_L2 L_L10 1.0
Kn_K13 L_L3 L_L4 0.8455394755293
Kn_K14 L_L3 L_L5 1.0
Kn_K15 L_L3 L_L6 0.9944338351857
Kn_K16 L_L3 L_L7 0.8389110061899
Kn_K17 L_L3 L_L8 1.0
Kn_K18 L_L3 L_L9 -0.410719842863
Kn_K19 L_L3 L_L10 1.0
Kn_K20 L_L4 L_L5 1.0
Kn_K21 L_L4 L_L6 0.8410189245315
Kn_K22 L_L4 L_L7 0.9934482882852
Kn_K23 L_L4 L_L8 1.0
Kn_K24 L_L4 L_L9 0.1395214471027
Kn_K25 L_L4 L_L10 1.0
Kn_K26 L_L5 L_L8 0.7960593010312
Kn_K27 L_L5 L_L10 0.8185736657579
Kn_K28 L_L6 L_L7 0.8464658934383
Kn_K29 L_L6 L_L8 1.0
Kn_K30 L_L6 L_L9 -0.408116314073
Kn_K31 L_L6 L_L10 1.0
Kn_K32 L_L7 L_L8 1.0
Kn_K33 L_L7 L_L9 0.140626566417
Kn_K34 L_L7 L_L10 1.0
Kn_K35 L_L8 L_L9 0.2488826328862
Kn_K36 L_L8 L_L10 0.94589695719
Kn_K37 L_L9 L_L10 1.0
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param21_19

    *  Analysis frequencies: 660.0, 725.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param21_20 1 2 3 4 REF
C_C1 1 2 127.40843551209pf
C_C2 1 4 1.454999274938pf
C_C3 2 REF 1.4409692622504pf
C_C4 2 3 0.5103017325452pf
C_C5 3 REF 0.6746239866157pf
C_C6 4 REF 0.6793775462498pf
R_R1 1 2 -61.44716582214
L_L1 1 5 0.3045381339792nh
R_RL1 5 2 0.0316554789879
L_L2 1 6 30.08160312058nh
R_RL2 6 3 -0.016289011276
L_L3 1 7 29.336046658383nh
R_RL3 7 4 -0.015997211331
L_L4 2 8 30.336621100304nh
R_RL4 8 3 0.0168164952564
L_L5 2 9 29.599684599014nh
R_RL5 9 4 0.0160010853296
L_L6 3 10 1.2893142153526nh
R_RL6 10 4 5.0580828766e-5
Kn_K1 L_L1 L_L4 -0.092046908054
Kn_K2 L_L1 L_L5 -0.094621224389
Kn_K3 L_L2 L_L3 0.978377844656
Kn_K4 L_L2 L_L4 0.9949683618876
Kn_K5 L_L2 L_L5 0.9731812296959
Kn_K6 L_L2 L_L6 -0.163371743525
Kn_K7 L_L3 L_L4 0.9735714038004
Kn_K8 L_L3 L_L5 0.9948426616887
Kn_K9 L_L3 L_L6 0.0442074319797
Kn_K10 L_L4 L_L5 0.9785625637751
Kn_K11 L_L4 L_L6 -0.161994472733
Kn_K12 L_L5 L_L6 0.0447077923933
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param21_20

    *  Analysis frequencies: 725.0, 795.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param21_21 1 2 3 4 REF
C_C1 1 REF 0.2215480909354pf
C_C2 1 2 43.457373306166pf
C_C3 1 4 0.5321420341069pf
C_C4 2 REF 0.8397050301335pf
C_C5 2 3 0.2096002589444pf
C_C6 3 REF 0.6759938872657pf
C_C7 4 REF 0.6716686999498pf
R_R1 1 2 -432.1780478575
L_L1 1 5 0.7734719446072nh
R_RL1 5 2 -0.214941739289
L_L2 1 6 98.027702407788nh
R_RL2 6 3 -0.391392518405
L_L3 1 7 97.029826669349nh
R_RL3 7 4 -0.386861532097
L_L4 2 8 99.394599798241nh
R_RL4 8 3 -1.088076399528
L_L5 2 9 98.403365544549nh
R_RL5 9 4 -1.080341398772
L_L6 3 10 1.2955848357366nh
R_RL6 10 4 1.8884910787e-5
Kn_K1 L_L1 L_L2 -0.03407528324
Kn_K2 L_L1 L_L3 -0.034633372774
Kn_K3 L_L1 L_L4 -0.122054851617
Kn_K4 L_L1 L_L5 -0.123048685471
Kn_K5 L_L2 L_L3 0.9933709338046
Kn_K6 L_L2 L_L4 0.9961060209701
Kn_K7 L_L2 L_L5 0.9894347525342
Kn_K8 L_L2 L_L6 -0.101754574648
Kn_K9 L_L3 L_L4 0.9895719264897
Kn_K10 L_L3 L_L5 0.996066870094
Kn_K11 L_L3 L_L6 0.0132762846206
Kn_K12 L_L4 L_L5 0.9934624335191
Kn_K13 L_L4 L_L6 -0.100759844927
Kn_K14 L_L5 L_L6 0.0134774036829
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param21_21

    *  Analysis frequencies: 795.0, 875.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param21_22 1 2 3 4 REF
C_C1 1 REF 0.3957336235827pf
C_C2 1 2 20.552631876769pf
C_C3 1 3 0.0411804643945pf
C_C4 1 4 0.2780044260348pf
C_C5 2 REF 0.6822900081148pf
C_C6 2 3 0.1254314037326pf
C_C7 3 REF 0.6759637760128pf
C_C8 4 REF 0.6690999413735pf
L_L1 1 5 1.0761231341111nh
R_RL1 5 2 -5.907499456e-3
L_L2 3 6 1.2952887160855nh
R_RL2 6 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param21_22

    *  Analysis frequencies: 875.0, 960.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param21_23 1 2 3 4 REF
C_C1 1 REF 0.4661386674199pf
C_C2 1 2 11.913015074077pf
C_C3 1 3 0.0786447119962pf
C_C4 1 4 0.1811359314083pf
C_C5 2 REF 0.6296905696149pf
C_C6 2 3 0.0912851275946pf
C_C7 3 REF 0.6751099678839pf
C_C8 4 REF 0.6672485004536pf
L_L1 1 5 1.5779224610444nh
R_RL1 5 2 -0.034423887879
L_L2 3 6 1.2931169411229nh
R_RL2 6 4 -1.748703289e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param21_23

    *  Analysis frequencies: 960.0, 1055.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param21_24 1 2 3 4 REF
C_C1 1 REF 0.4994340168994pf
C_C2 1 2 8.2899910578335pf
C_C3 1 3 0.1009331541695pf
C_C4 1 4 0.1386958823704pf
C_C5 2 REF 0.6127240599979pf
C_C6 2 3 0.0736144663466pf
C_C7 2 4 0.0469420412628pf
C_C8 3 REF 0.6733565889872pf
C_C9 4 REF 0.6648087196524pf
L_L1 1 5 1.8067290745261nh
R_RL1 5 2 5.3989875943e-5
L_L2 3 6 1.290329561439nh
R_RL2 6 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param21_24

    *  Analysis frequencies: 1055.0, 1160.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param21_25 1 2 3 4 REF
C_C1 1 REF 0.5186738892405pf
C_C2 1 2 7.0094057232852pf
C_C3 1 3 0.1201322359576pf
C_C4 1 4 0.1180997569514pf
C_C5 2 REF 0.6159722190498pf
C_C6 2 3 0.0600502283302pf
C_C7 2 4 0.0734617478949pf
C_C8 3 REF 0.6712416793095pf
C_C9 4 REF 0.6621672888683pf
L_L1 1 5 1.9125551936796nh
R_RL1 5 2 -7.505411642e-4
L_L2 3 6 1.2869021808306nh
R_RL2 6 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param21_25

    *  Analysis frequencies: 1160.0, 1200.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param21_26 1 2 3 4 REF
C_C1 1 REF 0.5264806756744pf
C_C2 1 2 6.9740139402395pf
C_C3 1 3 0.1341679438051pf
C_C4 1 4 0.1108476539816pf
C_C5 2 REF 0.6262396525581pf
C_C6 2 3 0.0504410134422pf
C_C7 2 4 0.0854437057875pf
C_C8 3 REF 0.6695716334377pf
C_C9 4 REF 0.6600955139408pf
L_L1 1 5 1.8915376077995nh
R_RL1 5 2 4.9393601922e-5
L_L2 3 6 1.2854357116551nh
R_RL2 6 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param21_26

